US06586434B2
Preparation of (4E)-2-butyl-2-(phenylthiomethyl)hex-4-enal
2-(Phenylthiomethyl)hexanal (2.67 g, 12 mmol), 3-buten-2-ol (5 mL, 58 mmol), and p-toluenesulfonic acid (0.05 g, 0.26 mmol) are added to 25 ml of xylenes. The reaction mixture is heated to reflux using a Dean-Stark trap to collect water. After 3 hours, the mixture is cooled to room temperature and diluted with ethyl acetate, which is washed saturated NaHCO3 solution, brine, and dried with MgSO4. After removing solvents, the crude product is purified by chromatography. The product is obtained in 78.6% as a colorless oil.

reactant | 2-(Phenylthiomethyl)hexanal | 12 mmol, 2.67 g | C1(=CC=CC=C1)SCC(C=O)CCCC | C13H18OS
reactant | 3-buten-2-ol | 58 mmol, 5 mL | CC(C=C)O | C4H8O
reactant | p-toluenesulfonic acid | 0.26 mmol, 0.05 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | (4E)-2-butyl-2-(phenylthiomethyl)hex-4-enal | C(CCC)C(C=O)(C\C=C\C)CSC1=CC=CC=C1 | C17H24OS
